US07456195B2
To 2,2′-dithio-bis(benzonitrile) (obtained from Sumitomo Seika) (2.00 g, 7.46 mmol) in THF (37 mL) at −78° C., a 0.5 M THF solution of cyclopropyl magnesium bromide (149 mL, 74.6 mmol) was added via addition funnel. After 10 min, the reaction was quenched with saturated aqueous ammonium chloride (200 mL). After warming to rt, the reaction product was diluted with water and ethyl acetate and the layers were separated. The organic layer was washed with water and brine, dried (MgSO4), filtered and concentrated. The resulting residue was purified via silica gel chromatography eluting with 15% ethyl acetate/hexane to provide 2-(cyclopropylthio)benzonitrile as a yellow oil (1.36 g). The oil was dissolved in CH2Cl2, ˜75% MCPBA (6.00 g, 26.1 mmol) was added and the reaction was stirred at rt for 2 h. 1N NaOH was added and the layers were separated. The organic layer was washed with 1N NaOH (3×) and brine (1×) then dried (MgSO4), filtered and concentrated to provide Intermediate 7A (1.50 g, 97% yield, 2 steps) as a white solid.

reactant | 2,2′-dithio-bis(benzonitrile) | 7.46 mmol, 2.00 g | C(C1=C(C=CC=C1)SSC1=C(C#N)C=CC=C1)#N | C14H8N2S2
reactant | cyclopropyl magnesium bromide | 74.6 mmol, 149 mL | C1(CC1)[Mg]Br
solvent | THF | 37 mL | C1CCOC1 | C4H8O
solvent | THF | 0.5 M | C1CCOC1 | C4H8O
product | 2-(cyclopropylthio)benzonitrile | 1.36 g | C1(CC1)SC1=C(C#N)C=CC=C1 | C10H9NS
